US07425568B2
5-Nitro-2-[2-(2-nitrophenyl)chroman-6-yloxy]pyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 2-(2-nitrophenyl)chroman-6-ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 2.9 Hz), 8.60 (dd, 1H, J 9.1, 2.9 Hz), 8.03 (d, 1H, J 7.9 Hz), 7.80-7.85 (m, 2H), 7.62-7.66 (m, 1H), 7.22 (d, 1H, J 9.1 Hz), 7.04 (d, 1H, J 2.8 Hz), 6.98 (dd, 1H, J 8.8, 2.8 Hz), 6.88 (d, 1H, J 8.8 Hz), 5.52 (dd, 1H, J 10.3, 2.0 Hz), 2.99-3.31 (m, 1H), 2.80-2.85 (m, 1H), 2.35-2.40 (m, 1H), 1.99-2.04 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(2-nitrophenyl)chroman-6-ol | [N+](=O)([O-])C1=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H13NO4
product | 5-Nitro-2-[2-(2-nitrophenyl)chroman-6-yloxy]pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C20H15N3O6
